US06414149B1
Step B: 3-Benzothiazol-2-yl-5,6-dihydro-8H-[1,2,4]triazolo[4,3-a]pyrazine-7-carboxylic acid benzyl ester
A mixture of 5-ethoxy-3,6-dihydro-2H-pyrazine-1-carboxylic acid benzyl ester (prepared according to the method of Example 259, Step A, 490 mg, 1.87 mmol) and benzothiazole-2-carboxylic acid hydrazide (360 mg, 1.87 mmol; J. Org. Chem. 1958, 23, 1344) in n-butanol (2 mL) was stirred at reflux overnight, cooled to room temperature, concentrated, and purified by flash column chromatography (1% methanol/chloroform) to give 580 mg of the title compound of Example 259, Step B (contaminated with an equimolar amount of benzothiazole-2-carboxylic acid hydrazide which was removed in the subsequent step) as a yellow solid.

reactant | 5-ethoxy-3,6-dihydro-2H-pyrazine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCN=C(C1)OCC | C14H18N2O3
reactant | benzothiazole-2-carboxylic acid hydrazide | 1.87 mmol, 360 mg | S1C(=NC2=C1C=CC=C2)C(=O)NN | C8H7N3OS
solvent | n-butanol | 2 mL | C(CCC)O | C4H10O
product | 3-Benzothiazol-2-yl-5,6-dihydro-8H-[1,2,4]triazolo[4,3-a]pyrazine-7-carboxylic acid benzyl ester | 580 mg | C(C1=CC=CC=C1)OC(=O)N1CC=2N(CC1)C(=NN2)C=2SC1=C(N2)C=CC=C1 | C20H17N5O2S
